US09212171B2
Step 1: (RS)-3-(5-Iodo-pyridin-2-yl)-1,5,5-trimethyl-pyrrolidine-2-one
A solution of 2-fluoro-5-iodopyridine (260 mg, 1.17 mmol) and 1,5,5-trimethyl-pyrrolidin-2-one (148 mg, 1.17 mmol) in 6 ml of dry toluene was purged with Argon and cooled to −4° C. A 1M solution of sodium hexamethyldisilylamide (NaHMDS) in toluene (2.33 ml, 2.33 mmol) was added dropwise maintaining the temperature below 0° C. The red solution was stirred for 2 h at 0° C., quenched by addition of 5 ml of saturated ammonium chloride solution. After extraction with ethyl acetate/water, drying over sodium sulfate and concentration; the residue (400 mg) was taken up in ethyl acetate, adsorbed onto 5 g of silicagel which was loaded onto a 20 g prepacked flash chromato-graphy column. After elution with a 0% to 75% ethyl acetate in heptane gradient, the fractions containing the desired product were collected to yield 145 mg (38%) of the title compound as a yellow viscous oil, MS: m/e=331.0 (M+H+).

reactant | 2-fluoro-5-iodopyridine | 1.17 mmol, 260 mg | FC1=NC=C(C=C1)I | C5H3FIN
reactant | 1,5,5-trimethyl-pyrrolidin-2-one | 1.17 mmol, 148 mg | CN1C(CCC1(C)C)=O | C7H13NO
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2.33 mmol, 2.33 ml | C1(=CC=CC=C1)C | C7H8
product | (RS)-3-(5-Iodo-pyridin-2-yl)-1,5,5-trimethyl-pyrrolidine-2-one | 145 mg, 38% | IC=1C=CC(=NC1)C1C(N(C(C1)(C)C)C)=O | C12H15IN2O
